US07419975B2
(2S,3R)-1-((2E,4Z)-(S)-1,2-Dimethyl-hexa-2,4-dienyl)-3-(3-oxo-propyl) pyrrolidine-2-carboxylic acid ethyl ester (D):
(2S,3R)-3-But-3-enyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid ethyl ester(1.0 g, 3.32 mmol) is dissolved in EtOH(10 mL) with HCl(0.5 mL, 37%), and cooled to −70° C. Ozone gas is bubbled though the solution for about 10 min or until the solution is turned very light blue color. The nitrogen gas is bubbled though the solution for 15 min to remove excess ozone in the solution. To the cool solution is added Zn dust(0.43 g. 6.6 mmol) and HCl(0.5 mL, 37%), and stirred at r.t. for 20 min. After filtration the solution is diluted with 50 mL of CH2Cl2 and washed with saturated NaHCO3(10 mL) and 2×20 ml of water. After dried and concentrated, a colorless liquid(1.0 g) is obtained without further purification for next step reaction. (NMR and MS data confirmed, U-4117-51-30).

reactant | (2S,3R)-3-But-3-enyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid ethyl ester | 3.32 mmol, 1.0 g | C(C)OC(=O)[C@H]1N(CC[C@H]1CCC=C)[C@@H](C)C1=CC=CC=C1 | C19H27NO2
reactant | EtOH | 10 mL | CCO | C2H6O
solvent | HCl | 0.5 mL | Cl | ClH
catalyst | Zn | 6.6 mmol, 0.43 g | [Zn] | Zn
solvent | HCl | 0.5 mL | Cl | ClH
product | (2S,3R)-1-((2E,4Z)-(S)-1,2-Dimethyl-hexa-2,4-dienyl)-3-(3-oxo-propyl) pyrrolidine-2-carboxylic acid ethyl ester | 1.0 g | C(C)OC(=O)[C@H]1N(CC[C@H]1CCC=O)[C@H](\C(=C\C=C/C)\C)C | C18H29NO3
